US08809532B2
2-methyl-5-vinylpyridine
Water (10 mL) was added to a mixture of potassium vinyltrifluoroborate (6.35 g, 47.4 mmol, Aldrich), 5-bromo-2-methylpyridine (8.00 g, 46.5 mmol,), triphenylphosphine (0.732 g, 2.79 mmol) and Cs2CO3 (45.5 g, 140 mmol) in a 500 mL round-bottom flask with stir bar. The flask was evacuated and purged with nitrogen (3 cycles), and the mixture was then heated under nitrogen at 75-80° C. for 19 hours, and then cooled to room temperature. The mixture was diluted with water (100 mL) and hexanes (50 mL), and the aqueous layer was drawn off and extracted with ether-hexanes (4:1, 50 mL). The combined organic phases were washed with brine (25 mL), dried over Na2SO4 and distilled at atmospheric pressure to a volume of ca. 10 mL. The residue was distilled under vacuum (90-100° C./20 Torr) to provide the title compound: 1H NMR (400 MHz, methanol-d4) δ ppm 2.51 (s, 3H) 5.35 (d, J=11.1 Hz, 1H) 5.86 (d, J=17.8 Hz, 1H) 6.74 (dd, J=17.8, 11.1 Hz, 1H) 7.27 (d, J=7.9 Hz, 1H) 7.84 (dd, J=8.3, 2.4 Hz, 1H) 8.40 (d, J=2.0 Hz, 1H).

reactant | potassium vinyltrifluoroborate | 47.4 mmol, 6.35 g | C(=C)[B-](F)(F)F.[K+]
reactant | 5-bromo-2-methylpyridine | 46.5 mmol, 8.00 g | BrC=1C=CC(=NC1)C | C6H6BrN
reactant | triphenylphosphine | 2.79 mmol, 0.732 g | C1(=CC=CC=C1)P(C1=CC=CC=C1)C1=CC=CC=C1 | C18H15P
reactant | Cs2CO3 | 140 mmol, 45.5 g | C(=O)([O-])[O-].[Cs+].[Cs+]
solvent | Water | 10 mL | O | H2O
product | 2-methyl-5-vinylpyridine | CC1=NC=C(C=C1)C=C | C8H9N
